US07632851B2
(3-Bromo-phenyl)-methyl-amine
2 g (11.6 mmol) 3-Bromoaniline is dissolved in 15 mL DMF and treated with 716 mg (1.1 eq.) KOH and 0.722 mL (1 eq.) iodomethane under continuous stirring at room temperature for 20 hours. The reaction mixture is extracted with ethyl acetate and water, the combined organic phases are washed with brine and dried with sodium sulfate and evaporated to dryness. The residue is column chromatographed (ethyl acetate/petroleum ether 2:5) to yield after evaporation the desired product as a yellow oil.

reactant | 3-Bromoaniline | 11.6 mmol, 2 g | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | KOH | 716 mg, 1.1 eq. | [OH-].[K+]
reactant | iodomethane | 0.722 mL, 1 eq. | IC | CH3I
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | (3-Bromo-phenyl)-methyl-amine | BrC=1C=C(C=CC1)NC | C7H8BrN
